US03959309
3-(Dimethylamino)-9-[2-(dimethylamino)ethyl]-1,2,3,4-tetrahydrocarbazole
Following the procedure given in Example 11 and using 6.7 g. of 3-(dimethylamino)-1,2,3,4-tetrahydrocarbazole, 1.35 g. of sodium hydride and 3.37 g. of dimethylaminoethyl chloride in 75 ml. of dimethylformamide there was otained 5.6 g. of 3-(dimethylaino)-9-[2-(dimethylamino)ethyl]-1,2,3,4-tetrahydrocarbazole in the form of its dihydrochloride salt which melted at 269°-270°C. (dec.) (corr.)

reactant | 3-(dimethylamino)-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2NC3=CC=CC=C3C2C1)C | C14H18N2
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylaminoethyl chloride | CN(C)CCCl | C4H10ClN
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(Dimethylamino)-9-[2-(dimethylamino)ethyl]-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2N(C3=CC=CC=C3C2C1)CCN(C)C)C | C18H27N3
